US07101880B2
Tributyltin hydride (37.8 g, 130 mmol) was added at reflux to a 500 ml of flask charged with benzene (200 mL) was added Z-dehydro-Ala-OH (15 g, 64 mmol), 1-methylcyclopentanylbromide (20.5 g) and AIBN (1.9 g). After 2 h, the solvent was removed and the residue was purified by column chromatograph to yield 7.9 g of 2-benzyloxycarbonylamino-3-(1-methylcyclopentyl)propionic acid methyl ester.

reactant | Tributyltin hydride | 130 mmol, 37.8 g | C(CCC)[SnH](CCCC)CCCC
reactant | Z-dehydro-Ala-OH | 64 mmol, 15 g | C=C(C(=O)O)NC(=O)OCC1=CC=CC=C1 | C11H11NO4
reactant | 1-methylcyclopentanylbromide | 20.5 g | CC1(CCCC1)Br | C6H11Br
reactant | AIBN | 1.9 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 2-benzyloxycarbonylamino-3-(1-methylcyclopentyl)propionic acid methyl ester | 7.9 g | COC(C(CC1(CCCC1)C)NC(=O)OCC1=CC=CC=C1)=O | C18H25NO4
